US03956297
in a 250-ml., three-neck flask fitted with a condenser, is heated to reflux 6.25 g. of 5,10-dihydro-11H-dibenzo-[b,e][1,4]diazepine-11-thione (30.0 mmol.) and 10.8 g. of aminopropionaldehyde dimethyl acetal (90.0 mmol.) in 60 ml. of n-butanol, during 2 hours. An additional 60 ml. of n-butanol is added and the mixture is refluxed overnight (22 hours). At this point, 60 ml. of n-butanol is distilled from the reaction mixture and refluxing is maintained for an additional 18 hours. On cooling, 2.0 g. of crude starting material is obtained. This is added to the reaction mixture along with an additional 5.4 g. of aminopropionaldehyde acetal (40.0 mmol.) and heating is maintained over a weekend (65 hours). On cooling and removal of the solvent in vacuo, 10 g. of brown oil is obtained. The oil is dissolved in 80 ml. of concentrated sulfuric acid and stirred at room temperature under nitrogen for 10 hours. The reaction mixture is then poured into ice and carefully neutralized with 50% aqueous sodium hydroxide solution. The basic aqueous solution is extracted thoroughly with chloroform. The combined chloroform extracts are washed with brine, dried over anhydrous potassium carbonate and concentrated in vacuo. The resulting oil is taken up in ethyl acetate, treated with activated charcoal and filtered. On concentrating and cooling the filtered solution, 3.2 g. of 2-methyl-9H-dibenzo[b,f]imidazo[1,2-d][1,4]diazepine is obtained in 2 crops (yield 40%) of melting point 232°-236° C.

reactant | 5,10-dihydro-11H-dibenzo-[b,e][1,4]diazepine-11-thione | 30.0 mmol | C1=CC=CC=2NC3=C(NC(C21)=S)C=CC=C3 | C13H10N2S
reactant | aminopropionaldehyde dimethyl acetal | 90.0 mmol | COC(C(C)N)OC | C5H13NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | n-butanol | C(CCC)O | C4H10O
product | 2-methyl-9H-dibenzo[b,f]imidazo[1,2-d][1,4]diazepine | yield 40% | CC=1N=C2N(C3=C(NC4=C2C=CC=C4)C=CC=C3)C1 | C16H13N3
